US08034895B2
Synthesis of 2-amino-5-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (R═H)
In a round bottom flask (50 mL), 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester (50 mg) was added to 20 mL isopropanol to which was added 2-thiophenecarboxaldehyde (24 mg) and a catalytic amount of trifluoroacetic acid (TFA). The mixture was refluxed for 20 hours. Complete removal of the solvent provides an orange solid which was purified by flash chromatography (SiO2), yielding the title compound as an orange solid (81%). M.p.: 114°-116° C. 1H-NMR (300 MHz, [D] acetone): δ=8.24 (s, 1H), 7.63 (d, 1H, 3J=5.0 Hz), 7.52 (dd, 1H, 3J=3.7 Hz and 4J=0.7 Hz), 7.48 (s, 2H), 7.14 (dd, 1H, 3J=5.0 Hz and 3.7 Hz), 4.32 (q, 2H, 3J=7.2 Hz), 4.19 (q, 2H, 3J=7.1 Hz), 1.37 (t, 3H, 3J=7.1 Hz), 1.26 (t, 3H, 3J=7.1 Hz). 13C-NMR (300 MHz, [D] acetone): δ=165.0, 164.3, 161.1, 161.0, 146.1, 143.2, 132.8, 132.1, 130.5, 128.4, 101.8, 61.0, 60.0, 14.3, 14.1.

reactant | 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester | 50 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N)N | C10H14N2O4S
reactant | 2-thiophenecarboxaldehyde | 24 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 2-amino-5-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | 81% | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC=CC1)N | C15H16N2O4S2
